US04762838
A solution of 119 g (0.461 mol) of 2-acetylamino-4-bromobenzoic acid and 3 liters of absolute ethanol was cooled to 0° C. and was then saturated with a stream of dry hydrogen chloride gas. The solution was then heated under reflux for 24 hours. Upon cooling to room temperature, the solution was evaporated to about 750 ml and then poured into 2 liters of aqueous saturated sodium bicarbonate. The aqueous phase was extracted three times with 300 ml portions of chloroform. The combined extracts were dried over anhydrous sodium sulfate, filtered, and evaporated to afford 23.8 g (21%) of ethyl 2-amino-4-bromobenzoate as an oil: ir(CHCl3) 3504 cm, 3390, 1685, 1610, 1580 among others; 1H-NMR(CDCl3) 1.3 ppm (triplet, 3H, CH2CH3), 4.3 (quartet, 2H, CH2CH3), 5.8 (broad singlet, 2H, NH2), 6.6 [doublet (part of AB pattern), 1 H, aromatic H], 6.8 (singlet, 1H, aromatic H), 7.7 [doublet (part of AB pattern), 1H, aromatic H].

reactant | 2-acetylamino-4-bromobenzoic acid | 0.461 mol, 119 g | C(C)(=O)NC1=C(C(=O)O)C=CC(=C1)Br | C9H8BrNO3
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 3 liters | C(C)O | C2H6O
product | ethyl 2-amino-4-bromobenzoate | 23.8 g, 21% | NC1=C(C(=O)OCC)C=CC(=C1)Br | C9H10BrNO2
